US06797718B2
Under a nitrogen atmosphere, tetrahydrofuran (THF) (150 mL) was cooled to 0° C. Sodium hydride (9.30 g, 233 mmol), available as a 60% dispersion in mineral oil, was added with stirring. A solution of phenol (21.1 g, 225 mmol) in THF (80 mL) was added dropwise over a period of one hour. A solution of 5-(2-chloro-5,6-dimethyl-3-nitropyridin-4-ylamino)pentan-1-ol (44.5 g, 155 mmol) in THF (80 mL) was then added dropwise over a period of 40 minutes. The reaction was allowed to warm to room temperature and heated at reflux overnight. An analysis by thin layer chromatography (TLC) indicated that the reaction was incomplete. Additional reagent was prepared as described above by adding phenol (7.1 g, 75 mmol) to sodium hydride (3.2 g, 80 mmol) in THF (50 mL), and the reagent was added to the reaction solution at room temperature. The reaction was heated at reflux overnight and then allowed to cool to room temperature. Water (50 mL) was added, and the solvent was removed under reduced pressure. The aqueous solution was extracted with ethyl acetate. The organic solution was washed with water (3×) and brine (1×), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide the crude product. The crude product was purified twice by column chromatography on silica gel (eluting sequentially with 50:50 hexane:ethyl acetate and 25:75 hexane:ethyl acetate) to provide 40.24 g of 5-(2,3-dimethyl-5-nitro-6-phenoxy-pyridin-4-ylamino)pentan-1-ol as a yellow oil.

reactant | Sodium hydride | 233 mmol, 9.30 g | [H-].[Na+]
reactant | phenol | 225 mmol, 21.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | 5-(2-chloro-5,6-dimethyl-3-nitropyridin-4-ylamino)pentan-1-ol | 155 mmol, 44.5 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCCCO)C)C | C12H18ClN3O3
reactant | phenol | 75 mmol, 7.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 80 mmol, 3.2 g | [H-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | THF | 80 mL | O1CCCC1 | C4H8O
solvent | THF | 80 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5-(2,3-dimethyl-5-nitro-6-phenoxy-pyridin-4-ylamino)pentan-1-ol | 40.24 g | CC1=NC(=C(C(=C1C)NCCCCCO)[N+](=O)[O-])OC1=CC=CC=C1 | C18H23N3O4
